US07989457B2
Step A. 4-(2-Methoxy-vinyl)-4′-trifluoromethyl-biphenyl
To an ambient temperature suspension of potassium tert-butoxide (449 mg, 4.00 mmol) in THF (20 mL) is added (methoxymethyl)triphenylphosphonium chloride (1.37 g, 4.00 mmol) and is stirred at room temperature for 30 min. 4′-trifluoromethyl-biphenyl-4-carbaldehyde (500 mg, 2.00 mmol) is added and the reaction mixture continues to stir at room temperature. After 2 h TLC (30% EtOAc/hexane) indicates complete consumption of starting material. The reaction is quenched with saturated aqueous NH4Cl and concentrated. The residue is partitioned between EtOAc (50 mL) and water (20 mL). The aqueous layer is extracted with EtOAc (50 mL) and the combined organic layers are washed with brine (100 mL), dried (MgSO4), filtered, concentrated and chromatographed (40 g SiO2, 5% EtOAc/Hexanes) to yield the title compound (482 mg, 87%).

reactant | potassium tert-butoxide | 4.00 mmol, 449 mg | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 4.00 mmol, 1.37 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4′-trifluoromethyl-biphenyl-4-carbaldehyde | 2.00 mmol, 500 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(2-Methoxy-vinyl)-4′-trifluoromethyl-biphenyl | 482 mg, 87% | COC=CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O
